US07838624B2
Synthesis of 2-bromo-3-[4-(2-ethylhexyl)-phenyl]-thiophene
A 250-mL round bottom flask was charged with 3-[4-(2-ethylhexyl)-phenyl]-thiophene (7 g, 0.026 mol), N,N-dimethyl formamide (DMF) (65 mL). The reaction mixture was stirred at ambient temperature for 5 minutes, whereupon a 0.4 M solution of NBS (0.026 mol) in DMF was added and the stirring continued for 2 hours. After addition of water, the mixture was extracted with diethyl ether (3×150 mL). The combined organic layer was dried over anhydrous magnesium sulfate (MgSO4). After the product was filtered, the solvent was removed by rotary evaporation. The crude product was purified using column chromatography on silica gel with hexane as the eluent (Rf=0.35). The compound was dried under vacuum to yield 8.7 g (95%) of slightly yellow oil.

reactant | 3-[4-(2-ethylhexyl)-phenyl]-thiophene | 0.026 mol, 7 g | C(C)C(CC1=CC=C(C=C1)C1=CSC=C1)CCCC | C18H24S
reactant | NBS | 0.026 mol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 65 mL | CN(C=O)C | C3H7NO
product | 2-bromo-3-[4-(2-ethylhexyl)-phenyl]-thiophene | BrC=1SC=CC1C1=CC=C(C=C1)CC(CCCC)CC | C18H23BrS
